US06057369
7-Phenylhept-2-enoic acid (7 g; 34 mmol) is dissolved in dry THF and cooled to 0° C. Diphenylphosphinic chloride (ClP(O)Ph2) (7.1 mL; 37 mmol) is added followed by dropwise addition of triethylamine (4.7 mL; 34 mmol). After 45 min at 0° C., a mixture of O-(trimethylsilyl)hydroxylamine (TMSONH2) (4.3 g; 37 mmol) and triethylamine (4.7 mL; 34 mmol) is added dropwise at 0° C. The bath is removed and the reaction is allowed to stir at 20° C. for 2 hours. The reaction is then filtered and the solid is extracted with EtOAc (500 mL). The EtOAc is washed with 60 mL 1 N HCl, 50 mL brine and dried (MgSO4). The resulting solution is concentrated in vacuo to yield a white solid which is purified by tituration with Et2O to obtain 7-phenylhept-2-enoic acid hydroxyamide (3.9 g; 18 mmol). MS (EI) m/e 219 (M+). Anal. (C13H17NO2) C, H, N.

reactant | 7-Phenylhept-2-enoic acid | 34 mmol, 7 g | C1(=CC=CC=C1)CCCCC=CC(=O)O | C13H16O2
reactant | Diphenylphosphinic chloride | 37 mmol, 7.1 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | triethylamine | 34 mmol, 4.7 mL | C(C)N(CC)CC | C6H15N
reactant | O-(trimethylsilyl)hydroxylamine | 37 mmol, 4.3 g | C[Si](ON)(C)C | C3H11NOSi
reactant | triethylamine | 34 mmol, 4.7 mL | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | 7-phenylhept-2-enoic acid hydroxyamide | 18 mmol, 3.9 g | ONC(C=CCCCCC1=CC=CC=C1)=O | C13H17NO2
